US07060817B2
Preparation of n-butyl-N-(2-methoxyethyl)sulfonamide
6.4 ml of 2-methoxyethylamine (5.5 g, 73.7 mmol) and 10.2 ml of triethylamine (7.4 g, 73.7 mmol) were dissolved at room temperature in 72 ml of methylene chloride. Likewise at room temperature 9.6 ml of n-butanesulfonyl chloride (11.5 g, 73.7 mmol) were added dropwise to this solution over the course of one hour. After 1 h of stirring at room temperature the reaction mixture was washed twice with 100 ml of water. The organic phase was dried over magnesium sulphate, the methylene chloride was distilled off and the oily residue which remained was dried in vacuo. This gave 12.4 g of the target compound, whose constitution was verified by NMR spectroscopy.

reactant | 2-methoxyethylamine | 73.7 mmol, 6.4 ml, 5.5 g | COCCN | C3H9NO
reactant | triethylamine | 73.7 mmol, 10.2 ml, 7.4 g | C(C)N(CC)CC | C6H15N
reactant | n-butanesulfonyl chloride | 73.7 mmol, 9.6 ml, 11.5 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | methylene chloride | 72 ml | C(Cl)Cl | CH2Cl2
product | n-butyl-N-(2-methoxyethyl)sulfonamide | C(CCC)S(=O)(=O)NCCOC | C7H17NO3S
